US05081237
To a solution of allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (5.36 g) in tetrahydrofuran (60 ml) were added acetic acid (5.6 ml) and a 1M solution of tetrabutylammonium fluoride in tetrahydrofuran (49 ml) at 0° C. After standing at ambient temperature for 7 hours and at 5° C. for 14 hours, the reaction mixture was taken up into a mixture of ethyl acetate (200 ml) and water (200 ml). After adjusting pH to around 7 with aqueous sodium hydrogen carbonate, the organic layer was separated, washed in turn with water and brine, and dried over magnesium sulfate. Removal of the solvent gave a residue, which was chromatographed on silica gel (150 ml) eluting with a mixture of n-hexane and ethyl acetate (8:2-3:7 V/V) to give allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (2.82 g).

reactant | allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-t-butyldimethylsilyloxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 5.36 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(\C)/C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C29H44N2O6Si
reactant | acetic acid | 5.6 ml | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 49 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | allyl (5R,6S)-3-[(E)-2-{(2S)-1-allyloxycarbonylpyrrolidin-2-yl}-1-methylethenyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 2.82 g | C(C=C)OC(=O)N1[C@@H](CCC1)/C=C(\C)/C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C23H30N2O6
